US06262059B1
N-(3-cyclopentenylcarbonyl)piperazine (2.7 g., 0.015 mole) and 2-chloro-4-amino-6,7-dimethoxyquinazoline (3.6 g., 0.015 mole) are reacted according to the procedure of Example 127(a). The crude product crystallized from methanol affords analytically pure 4-amino-2-4-(3-cyclopentenylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline, m.p. 215.5°-217.5° C. (corr.).

reactant | N-(3-cyclopentenylcarbonyl)piperazine | 0.015 mole, 2.7 g | C1(CC=CC1)C(=O)N1CCNCC1 | C10H16N2O
reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 0.015 mole, 3.6 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
product | 6,7-dimethoxyquinazoline | COC=1C=C2C=NC=NC2=CC1OC | C10H10N2O2
